US09216972B2
A mixture of 4-bromo-3-(trifluoromethyl)benzonitrile (6 g, 24.00 mmol), DMA (30 mL), cuprous iodide (0.914 g, 4.80 mmol) and 1,1′-bis(diphenylphosphino) ferrocenedichloro palladium(II) dichloromethane complex (1.756 g, 2.400 mmol) was bubbled with nitrogen for 5 min. before 0.5 M THF solution of cyclohexylzinc bromide (100 mL, 50.0 mmol) was added over 20 min. via cannula at room temperature. The black reaction mixture was stirred at 60° C. overnight. The reaction mixture was concentrated under reduced pressure. EtOAc (50 mL), water (100 mL) and saturated aqueous ammonium chloride solution (30 mL) were added. The solid was filtered off over a celite pad and washed with ethyl acetate (3×20 mL). The aqueous layer was separated and extracted with ethyl acetate (50 mL). The combined organic solutions were washed with 1 N aqueous HCl (2×40 mL) and then brine (40 mL), dried (sodium sulfate) and concentrated under reduced pressure. Flash chromatography purification (silica gel column, 20→100% ethyl acetate in hexanes) afforded 4-cyclohexyl-3-(trifluoromethyl)benzonitrile (2.77 g, 10.94 mmol, 45.6% yield) as a solid. The compound had an HPLC retention time=3.44 min. (condition C); LC/MS [M+H2O]+1=272.2.

reactant | 4-bromo-3-(trifluoromethyl)benzonitrile | 24.00 mmol, 6 g | BrC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | DMA | 30 mL | CC(=O)N(C)C | C4H9NO
reactant | cyclohexylzinc bromide | 50.0 mmol, 100 mL | [Br-].C1(CCCCC1)[Zn+]
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | 4-cyclohexyl-3-(trifluoromethyl)benzonitrile | 10.94 mmol, 2.77 g, 45.6% yield | C1(CCCCC1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C14H14F3N
